US08048881B2
48.1. 4-{(S)-4-tert-butoxycarbonyl-2-[(6-chloro-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester
Under argon, oxalyl chloride (0.843 ml) was added to a solution of 6-chloro-2-phenyl-pyrimidine-4-carboxylic acid (1.17 g) in acetonitrile (50 ml) and it was refluxed for 3 h. The reaction mixture was cooled down to 0° C. and NEt3 (2.07 ml) was added, followed by 4-((S)-2-amino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester (1.7 g) in 10 ml acetonitrile. It was stirred at RT under argon for 1 h. Water was added and the reaction mixture was extracted with EA. The org. layers were dried (Na2SO4) and evaporated off. Purification by column chromatography (EA/Hept 1/3 to 1/2) offered 1.61 g of the desired compound.

reactant | oxalyl chloride | 0.843 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-chloro-2-phenyl-pyrimidine-4-carboxylic acid | 1.17 g | ClC1=CC(=NC(=N1)C1=CC=CC=C1)C(=O)O | C11H7ClN2O2
reactant | NEt3 | 2.07 ml | CCN(CC)CC | C6H15N
reactant | 4-((S)-2-amino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester | 1.7 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)N)=O | C16H29N3O5
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | Water | O | H2O
product | 4-{(S)-4-tert-butoxycarbonyl-2-[(6-chloro-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC(=NC(=C1)Cl)C1=CC=CC=C1)=O | C27H34ClN5O6
